US06958347B2
A solution of 2-iodo-4-nitrotoluene (50 g, 0.19 mol) in a mixture of glacial acetic acid (380 ml), acetic anhydride (190 ml) and concentrated sulfuric acid (112 ml) was cooled in an ice bath. Chromium trioxide (97 g, 0.57 mol) was added portionwise over 30 minutes, during which time the internal temperature rose to ca. 90° C. The resultant thick suspension was cooled in an ice bath for 30 min, then poured over ice (2 kg). When the ice had melted, the precipitate was collected by filtration, washed with methanol (800 ml) and ether (200 ml), and dried in vacuo to afford 2-iodosyl-4-nitro-benzoic acid I-1a (54.9 a, 94%).

reactant | 2-iodo-4-nitrotoluene | 0.19 mol, 50 g | IC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6INO2
reactant | acetic anhydride | 190 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 112 ml | S(O)(O)(=O)=O | H2O4S
catalyst | Chromium trioxide | 0.57 mol, 97 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | acetic acid | 380 ml | C(C)(=O)O | C2H4O2
product | 2-iodosyl-4-nitro-benzoic acid | I(=O)C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4INO5
